US05442070
A solution of 68 g of 3-ethoxycarbonyl-6,7-difluoro-2-[N-ethyl N-(b-ethoxycarbonylethyl)amino]quinoline in 200 cm3 of absolute ethanol is introduced in the course of 60 minutes into a solution of 16.1 g of sodium ethylate brought to reflux in 600 cm3 of absolute ethanol. The suspension obtained, still refluxing, is stirred for a further 60 minutes. 20 cm3 of glacial acetic acid are then introduced in the course of 30 minutes. The reaction mixture is stirred for a further 15 minutes and, with the mixture still refluxing, 400 cm3 of water are then introduced in the course of 45 minutes. The suspension obtained is cooled to approximately 20° C. The precipitate obtained is drained at approximately 20° C. and washed with twice 200 cm3 of water. The wet product is dried under reduced pressure (20 kPa) at approximately 50° C. 52.4 g of 3-ethoxycarbonyl -7,8-difluoro-1-ethyl-4-oxo-1,2,3,4-tetrahydro-benzo[b][1,8]naphthyridine are isolated in the form of a golden-yellow solid, melting point 152° C.

reactant | 3-ethoxycarbonyl-6,7-difluoro-2-[N-ethyl N-(b-ethoxycarbonylethyl)amino]quinoline | 68 g | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1)F)F)N(CCC(=O)OCC)CC | C19H22F2N2O4
reactant | sodium ethylate | 16.1 g | CC[O-].[Na+]
reactant | acetic acid | 20 cm3 | C(C)(=O)O | C2H4O2
reactant | water | 400 cm3 | O | H2O
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
solvent | ethanol | 600 cm3 | C(C)O | C2H6O
product | 3-ethoxycarbonyl -7,8-difluoro-1-ethyl-4-oxo-1,2,3,4-tetrahydro-benzo[b][1,8]naphthyridine | 52.4 g | C(C)OC(=O)C1C(C=2C=C3C(=NC2N(C1)CC)C=C(C(=C3)F)F)=O | C17H16F2N2O3
